US05912256
(2S)-(-)-1-(4-indolyloxy)-3-[4-hydroxy-4-(6-benzyloxynaphth-2-yl)piperidine-1-yl]-2-propanol
Beginning with 0.170 gm (0.90 mmol) (S)-(+)-4-(oxiranylmethoxy)-1H-indole and 0.300 gm (0.90 mMol) 4-hydroxy-4-(6-benzyloxynaphth-2-yl)piperidine, 0.388 gm (83%) of the title compound were recovered as a white solid by the procedure described in Example 9.

reactant | (S)-(+)-4-(oxiranylmethoxy)-1H-indole | 0.90 mmol, 0.170 gm | O1[C@@H](C1)COC1=C2C=CNC2=CC=C1 | C11H11NO2
reactant | 4-hydroxy-4-(6-benzyloxynaphth-2-yl)piperidine | 0.90 mMol, 0.300 gm | OC1(CCNCC1)C1=CC2=CC=C(C=C2C=C1)OCC1=CC=CC=C1 | C22H23NO2
product | (2S)-(-)-1-(4-indolyloxy)-3-[4-hydroxy-4-(6-benzyloxynaphth-2-yl)piperidine-1-yl]-2-propanol | 0.388 gm, 83% | N1C=CC2=C(C=CC=C12)OC[C@H](CN1CCC(CC1)(C1=CC2=CC=C(C=C2C=C1)OCC1=CC=CC=C1)O)O | C33H34N2O4
